US08476261B2
50D) Preparation of 1-(1-aminocyclobutyl)-2-propanol
10% Pd—C (300 mg) was added to a solution of 1-[1-(benzylamino)cyclobutyl]-2-propanol (2.24 g, 10.2 mmol) in EtOH (50 mL) and the mixture was stirred under H2 gas (5 kgf/cm2) at room temperature for 10 hours. The mixture was filtered and the filtrate was concentrated in vacuo. Distillation of the residue gave the title compound as a pale yellow oil (1.24 g, 94%).

reactant | 1-[1-(benzylamino)cyclobutyl]-2-propanol | 10.2 mmol, 2.24 g | C(C1=CC=CC=C1)NC1(CCC1)CC(C)O | C14H21NO
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | 1-(1-aminocyclobutyl)-2-propanol | 1.24 g, 94% | NC1(CCC1)CC(C)O | C7H15NO
